US05370807
2-hydroxy-4,4,6-trimethyl-1,3,2-dioxaborinane
61.2 g of boric acid (1 mol) and 118.2 g of 2-methyl-2,4-pentanediol (1 mol) and 200 ml of heptane are charged to a reaction flask equipped with stirrer, Marcusson apparatus and reflux condenser. The reaction mixture is heated up to its reflux temperature (about 95° C.), with stirring, and is kept at that temperature for a 4-hour period.

reactant | boric acid | 1 mol, 61.2 g | B(O)(O)O | BH3O3
reactant | 2-methyl-2,4-pentanediol | 1 mol, 118.2 g | CC(C)(CC(C)O)O | C6H14O2
solvent | heptane | 200 ml | CCCCCCC | C7H16
product | 2-hydroxy-4,4,6-trimethyl-1,3,2-dioxaborinane | OB1OC(CC(O1)(C)C)C | C6H13BO3
